US07378410B2
Following the procedure of example 1h) except ((S)-2-oxo-azepan-3-yl)-carbamic acid tert-butyl ester is substituted for [(3S,6R)-6-(tert-butyl-dimethyl-silanyloxy)-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester and bromo-acetic acid benzyl ester is substituted for 2-chloromethyl-pyridine and one equivalent of KN(Si(CH3)3)2 base to give ((S)-3-tert-butoxycarbonylamino-2-oxo-azepan-1-yl)-acetic acid benzyl ester. Removal of the Boc group by procedure 2d) gives ((S)-3-amino-2-oxo-azepan-1-yl)-acetic acid benzyl ester.

reactant | ((S)-2-oxo-azepan-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NCCCC1)=O)=O | C11H20N2O3
reactant | [(3S,6R)-6-(tert-butyl-dimethyl-silanyloxy)-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NC[C@@H](CC1)O[Si](C)(C)C(C)(C)C)=O)=O | C17H34N2O4Si
reactant | bromo-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
reactant | 2-chloromethyl-pyridine | ClCC1=NC=CC=C1 | C6H6ClN
product | ((S)-3-tert-butoxycarbonylamino-2-oxo-azepan-1-yl)-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CN1C([C@H](CCCC1)NC(=O)OC(C)(C)C)=O)=O | C20H28N2O5
